US06265434B1
Step A: 1-(t-Butoxycarbonyl)-4-(prop-2-enyl)-4-hydroxypiperidine
A dry round bottom flask was purged with nitrogen and charged with 1-t-butoxycarbonyl-4-piperidinone (20 g, 100 mmol), titanocene dichloride (1.2 g, 5 mmol) and zinc dust (7.8 g, 120 mmol) in 100 mL dry THF. Allyl bromide (11.3 mL, 130 mmol) was added and the mixture was stirred for 5 h at rt. The mixture was diluted with 700 mL EtOAc, washed with 2.0 M HCl (2×200 ML), 100 mL of sat'd NaCl, dried over MgSO4 and concentrated. Flash chromatography (650 g silica, 10/1 CH2Cl2/Et2O eluant) afforded 10.9 g (45%) of the title compound: 1H NMR (300 MHz) δ 1.4-1.6 (13H), 2.2-2.25 (d, 2H), 3.1-3.2 (m, 2H), 3.75-3.85 (m, 2H), 5.1-5.25 (m, 2H), 5.78-5.92 (m, 1H).

reactant | 1-t-butoxycarbonyl-4-piperidinone | 100 mmol, 20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | Allyl bromide | 130 mmol, 11.3 mL | C(C=C)Br | C3H5Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 700 mL | CCOC(=O)C | C4H8O2
catalyst | titanocene dichloride | 5 mmol, 1.2 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ti+2]
catalyst | zinc | 120 mmol, 7.8 g | [Zn] | Zn
product | 1-(t-Butoxycarbonyl)-4-(prop-2-enyl)-4-hydroxypiperidine | 10.9 g, 45% | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CC=C | C13H23NO3
